US04769402
A solution of 2,2-dimethylsuccinic anhydride (128 g, 1 mol) in dimethylformamide (150 ml) was added slowly for a time of 1 h at a temperature of 25° C. to a stirred solution of p-aminophenol (109 g, 1 mol) in dimethylformamide (150 ml) present in a reactor. By continuing the procedure as described in Example 1, N-(4-hydroxyphenyl)-2,2-dimethylsuccinimide was obtained in a yield of 70% and with a purity of more than 95%.

reactant | 2,2-dimethylsuccinic anhydride | 1 mol, 128 g | CC1(C(=O)OC(C1)=O)C | C6H8O3
reactant | p-aminophenol | 1 mol, 109 g | C1=CC(=CC=C1N)O | C6H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-(4-hydroxyphenyl)-2,2-dimethylsuccinimide | yield of 70% | OC1=CC=C(C=C1)N1C(C(CC1=O)(C)C)=O | C12H13NO3
